US08877934B2
Step A: tert-Butyl N-[2-[(6-amino-2-methylsulfanyl-pyrimidin-4-yl)amino]ethyl]carbamate
6-Chloro-2-methylsulfanyl-pyrimidin-4-amine (176 mg, 1 mmol) was dissolved together with tert-butyl N-(2-aminoethyl)carbamate (200 mg, 1.25 mmol) and triethylamine (174 μl, 1.25 mmol) in THF (2 ml). The mixture was stirred at 180° C. under microwave heating for 8 hours. The mixture was diluted with ethyl acetate and the resulting solution was washed with a solution of sodium bicarbonate (5%) and brine, dried over magnesium sulfate, the volatiles were removed under reduced pressure. The residue dissolved in DCM and purified by filtration over silica to yield 105 mg (0.35 mmol, 35%) MS (ESI) m/z=300.2 [M+1]+.

reactant | 6-Chloro-2-methylsulfanyl-pyrimidin-4-amine | 1 mmol, 176 mg | ClC1=CC(=NC(=N1)SC)N | C5H6ClN3S
reactant | tert-butyl N-(2-aminoethyl)carbamate | 1.25 mmol, 200 mg | NCCNC(OC(C)(C)C)=O | C7H16N2O2
reactant | triethylamine | 1.25 mmol, 174 μl | C(C)N(CC)CC | C6H15N
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl N-[2-[(6-amino-2-methylsulfanyl-pyrimidin-4-yl)amino]ethyl]carbamate | NC1=CC(=NC(=N1)SC)NCCNC(OC(C)(C)C)=O | C12H21N5O2S
